US07226926B2
2,6-Dibromopyridine (0.94 g, 4.0 mmol), 4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (1.48 g, 6.0 mmol) and potassium phosphate (1.70 g, 8.0 mmol) were dissolved in N,N-dimethylformamide (12 ml) and degassed with nitrogen for 15 min. Tetrakis(triphenylphosphine)palladium(0) (230 mg, 0.2 mmol) was added then the mixture heated at 80° C. for 16 h. The mixture was allowed to cool to ambient temperature, diluted with water (150 ml) and extracted into ethyl acetate (2×150 ml). The combined organics were washed with brine (100 ml), dried over anhydrous sodium sulfate and evaporated to give a yellow oil. Purification by flash column chromatography on silica eluting with isohexane on a gradient of ethyl acetate (10-15%) gave 4-fluoro-2-(6-bromopyridin-2-yl)benzonitrile (0.42 g, 38%) as a waxy solid: δH (360 MHz, CDCl3) 7.21-7.25 (1H, m), 7.59 (1H, d, J 8), 7.67 (1H, dd, J 9.3, 2.6), 7.72 (1H, t, J 7.7), 7.78-7.87 (2H, m).

reactant | 2,6-Dibromopyridine | 4.0 mmol, 0.94 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 6.0 mmol, 1.48 g | FC1=CC(=C(C#N)C=C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
reactant | potassium phosphate | 8.0 mmol, 1.70 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 230 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-fluoro-2-(6-bromopyridin-2-yl)benzonitrile | 0.42 g, 38% | FC1=CC(=C(C#N)C=C1)C1=NC(=CC=C1)Br | C12H6BrFN2
